US06358971B1
2-Chloro-5-(4-fluorobenzoyl)pyridine
The fluorobenzene (150 ml, 1.60 mmol) and 6-chloronicotinoyl chloride (17.7 g, 100 mmol) were converted to product in a manner substantially analogous to Preparation 1 to yield 15.2 g. (66.1%). EA, MS(FD), NMR.

reactant | fluorobenzene | 1.60 mmol, 150 ml | FC1=CC=CC=C1 | C6H5F
reactant | 6-chloronicotinoyl chloride | 100 mmol, 17.7 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Chloro-5-(4-fluorobenzoyl)pyridine | ClC1=NC=C(C=C1)C(C1=CC=C(C=C1)F)=O | C12H7ClFNO
